US08877439B2
1,4-Anhydro-2-O-benzyl-5-O-[bis(4-methoxyphenyl)(phenyl)methyl]-3-O-[(2-cyanoethoxy)(dipropan-2-ylamino)phosphanyl]-D-ribitol
To a cooled solution (0° C.) of 1,4-anhydro-2-O-benzyl-5-O-[bis(4-methoxyphenyl)(phenyl)methyl]D-ribitol (1.60 g, 3.04 mmol) and N,N-diisopropylethylamine (1.59 mL, 9.11 mmol) in DCM (20 mL), 2-cyanoethyl-N,N-diisopropylchlorophosphoramidite (1.44 g, 6.08 mmol) and 1-methylimidazole (0.12 mL, 1.519 mmol) were added. The reaction mixture was warmed to ambient temperature and stirred for 90 min. The reaction was then quenched with methanol (5 mL) and stirred for 5 min. The solvent was then removed in vacuo, and the residue was purified by flash chromatography using 20% ethyl acetate in hexane to obtain 0.94 g (1.293 mmol, 42.6%) of the pure product. LCMS: for C42H51N2O7P calculated 726.3. found 727.3 [M+H]+ and 749.4 [M+Na]+. 31P NMR (400 MHz, CD3CN) δ: 149.94, 149.70.

reactant | 1,4-anhydro-2-O-benzyl-5-O-[bis(4-methoxyphenyl)(phenyl)methyl]D-ribitol | 3.04 mmol, 1.60 g | C(C1=CC=CC=C1)O[C@H]1CO[C@@H]([C@H]1O)COC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C33H34O6
reactant | N,N-diisopropylethylamine | 9.11 mmol, 1.59 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-cyanoethyl-N,N-diisopropylchlorophosphoramidite | 6.08 mmol, 1.44 g | C(#N)CCOP(N(C(C)C)C(C)C)Cl | C9H18ClN2OP
reactant | 1-methylimidazole | 1.519 mmol, 0.12 mL | CN1C=NC=C1 | C4H6N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,4-Anhydro-2-O-benzyl-5-O-[bis(4-methoxyphenyl)(phenyl)methyl]-3-O-[(2-cyanoethoxy)(dipropan-2-ylamino)phosphanyl]-D-ribitol | 1.293 mmol, 0.94 g, 42.6% | C(C1=CC=CC=C1)O[C@H]1CO[C@@H]([C@H]1OP(N(C(C)C)C(C)C)OCCC#N)COC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C42H51N2O7P
